US06235355B1
To Grignard reagent prepared from 3-fluoro-4-trifluoromethoxy bromobenzene 70.0 g (270 mmol) and magnesium in dried THF 300 ml at room temperature, a THF (200 ml) solution of cyclohexanedione monoethyleneketal 42.1 g (270 mmol) was added dropwise at room temperature, and the mixture was stirred for 3 hours at room temperature. The reactant was added to one liter of 6N-hydrochloric acid, and the product was extracted with diethylether. The extract was washed with water, a saturated sodium bicarbonate aqueous solution, and then water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the residue, para-toluene sulfonic acid 5 g and toluene 500 ml were added. The mixture was refluxed with heating for 3 hours while removing water formed with Dien-Stark. The reactant was washed with water, a saturated sodium bicarbonate aqueous solution, and then water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: heptane/ethyl acetate=4/1). Such obtained purified material was hydrogenated in the presence of 5% palladium carbon 5 g as a catalyst in ethanol 300 ml. The catalyst was filtered off, the solvent was distilled off under reduced pressure, formic acid 20 g and toluene 200 ml were added to the residue, and the mixture was refluxed for 3 hours. After cooling, water 300 ml was added to the reactant, and the organic layer was fractionated, washed with water, a saturated sodium bicarbonate aqueous solution, and then water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent: heptane/ethyl acetate=3/1) to obtain 4-(3-fluoro-4-trifluoromethoxyphenyl)cyclohexanone 22.0 g (84.5 mmol). The yield was 31.3% from 3-fluoro-4-trifluoromethoxybromobenzene.

reactant | 3-fluoro-4-trifluoromethoxy bromobenzene | 270 mmol, 70.0 g | FC=1C=C(C=CC1OC(F)(F)F)Br | C7H3BrF4O
reactant | magnesium | [Mg] | Mg
reactant | cyclohexanedione monoethyleneketal | 270 mmol, 42.1 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(3-fluoro-4-trifluoromethoxyphenyl)cyclohexanone | 84.5 mmol, 22.0 g, yield was 31.3% | FC=1C=C(C=CC1OC(F)(F)F)C1CCC(CC1)=O | C13H12F4O2
